US07173033B2
To a solution of 6-hydrazino-N-methyl-N-phenylpyridazine-3-amine (1.14 g) in methylene chloride (10 ml), 6-chloropicolic acid (0.83 g) and WSCD hydrochloride (1.22 g) were added, and the mixture was stirred at room temperature overnight. The reaction solution was purified by silica gel column chromatography (eluent: chloroform) to obtain 6-chloro-N′-{6-[methyl(phenyl)amino]pyridazin-3-yl}pyridine-2-carbohydrazide (0.57 g). This compound (0.56 g) was stirred at 150° C. overnight in xylene (20 ml), and the reaction solution was concentrated to obtain 3-(chloropyridin-2-yl)-N-methyl-N-phenyl-1,2,4-triazolo[4,3-b]pyridazine-6-amine (0.54 g) as colorless solids.

reactant | 6-hydrazino-N-methyl-N-phenylpyridazine-3-amine | 1.14 g | N(N)C1=CC=C(N=N1)N(C1=CC=CC=C1)C | C11H13N5
reactant | 6-chloropicolic acid | 0.83 g | ClC1=CC=CC(=N1)C(=O)O | C6H4ClNO2
reactant | hydrochloride | 1.22 g | Cl | ClH
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 6-chloro-N′-{6-[methyl(phenyl)amino]pyridazin-3-yl}pyridine-2-carbohydrazide | 0.57 g | ClC1=CC=CC(=N1)C(=O)NNC=1N=NC(=CC1)N(C1=CC=CC=C1)C | C17H15ClN6O
